US05610294
N-dimethylsulfamoyl-imidaz-2-yl zinc chloride was prepared in situ by lithiation of N-dimethylsulfamoylimidazole (0.97 g, 5.5 mmol) in THF (20 mL) with t-BuLi (1.7M, 6.7 mL), followed by quenching with zinc chloride (1.87 g, 13.75 mmol).

reactant | N-dimethylsulfamoylimidazole | 5.5 mmol, 0.97 g | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | t-BuLi | 1.7M, 6.7 mL | [Li]C(C)(C)C
reactant | zinc chloride | 13.75 mmol, 1.87 g | [Cl-].[Zn+2].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-dimethylsulfamoyl-imidaz-2-yl zinc chloride | [Cl-].CN(S(=O)(=O)N1C(=NC=C1)[Zn+])C | InChI=1S/C5H8N3O2S.ClH.Zn/c1-7(2)11(9,10)8-4-3-6-5-8;;/h3-4H,1-2H3;1H;/q;;+1/p-1
